US09029370B2
To a stirred solution of (+)-(R)-tert-butyl 2-(4-amino-3-methylphenyl)morpholine-4-carboxylate (99 mg) in dichloromethane (3 ml) was added a solution of sodium carbonate (72 mg) in water (3 ml). The reaction mixture was cooled to 0° C. and triphosgene (37 mg) was added. The reaction mixture was then stirred at 0° C. for 1 hour. TLC showed all the starting material had reacted. 6-Chloropyridin-3-amine (48 mg, CAS 5350-93-6) was then added and the reaction mixture was stirred at room temperature for a further hour. TLC showed the reaction was complete. The reaction mixture was poured into dichloromethane and extracted with water. The organic phase was separated, dried over sodium sulphate and concentrated in vacuo. The residue was purified by column chromatography (SiO2; gradient: 0% to 70% EtOAc in hexanes) to give (R)-tert-butyl 2-(4-(3-(6-chloropyridin-3-yl)ureido)-3-methylphenyl)morpholine-4-carboxylate (106 mg, 70%) as an off-white solid. MS (ISP): 449.2 ([{37Cl}M+H]+), 447.2 ([{35Cl}M+H]+).

reactant | (+)-(R)-tert-butyl 2-(4-amino-3-methylphenyl)morpholine-4-carboxylate | 99 mg | NC1=C(C=C(C=C1)[C@@H]1CN(CCO1)C(=O)OC(C)(C)C)C | C16H24N2O3
reactant | sodium carbonate | 72 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphosgene | 37 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 6-Chloropyridin-3-amine | 48 mg | ClC1=CC=C(C=N1)N | C5H5ClN2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | water | 3 ml | O | H2O
product | (R)-tert-butyl 2-(4-(3-(6-chloropyridin-3-yl)ureido)-3-methylphenyl)morpholine-4-carboxylate | 106 mg, 70% | ClC1=CC=C(C=N1)NC(NC1=C(C=C(C=C1)[C@@H]1CN(CCO1)C(=O)OC(C)(C)C)C)=O | C22H27ClN4O4
